US06514964B1
Step B: 2-Bromo-5-nitrobenzaldehyde
To a stirring solution of (2-bromo-5-nitrophenyl) methan-1-ol (1 eq) in methylene chloride (0.1 M) at room temperature was added pyridinium chlorochromate (2 eq). After 2 hr the reaction mixture was filtered through celite and the product was purified by flash chromatography (15% EtOAc/Hexane). EI-MS m/z 230 (M+H)+.

reactant | (2-bromo-5-nitrophenyl) methan-1-ol | 1 eq | BrC1=C(C=C(C=C1)[N+](=O)[O-])CO | C7H6BrNO3
reactant | pyridinium chlorochromate | 2 eq | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 0.1 M | C(Cl)Cl | CH2Cl2
product | 2-Bromo-5-nitrobenzaldehyde | BrC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4BrNO3
